US08802690B2
Acid Preparation 11: 1H-pyrazolo[4,3-b]pyridine-6-carboxylic acid
To a solution of methyl 1H-pyrazolo[4,3-b]pyridine-6-carboxylate (3.52 g, 20 mmol) in methanol (250 mL) and water (190 mL) at 0° C. was added aqueous sodium hydroxide (2M, 64 mL, 128 mmol), dropwise. The suspension was then allowed to warm to ambient temperature and stirred for 18 hours. The methanol was then removed in vacuo and the aqueous mixture extracted with ethyl acetate (250 mL) before being acidified (to pH 5-6) with aqueous hydrochloric acid (2 M, 70 mL). The cream solid which had precipitated out was then filtered off and dried in a desiccator to yield the title compound (0.675 g, 4.16 mmol, 21% yield). 1HNMR (400 MHz, DMSO-d6): 8 ppm 8.97 (s, 1H), 8.45 (s, 1H), 8.39 (s, 1H).

reactant | methyl 1H-pyrazolo[4,3-b]pyridine-6-carboxylate | 20 mmol, 3.52 g | N1N=CC2=NC=C(C=C21)C(=O)OC | C8H7N3O2
reactant | sodium hydroxide | 128 mmol, 2M, 64 mL | [OH-].[Na+]
solvent | methanol | 250 mL | CO | CH4O
solvent | water | 190 mL | O | H2O
product | 1H-pyrazolo[4,3-b]pyridine-6-carboxylic acid | 4.16 mmol, 0.675 g, 21% yield | N1N=CC2=NC=C(C=C21)C(=O)O | C7H5N3O2
